US09388189B2
(S)—N-(3-Methoxyphenyl)-4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrol o[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (15 mg, 0.06 mmol), 4-chloro-N-(3-methoxyphenyl)pyrimidine-5-carboxamide (14 mg, 0.05 mmol, prepared according to R. Tadiparthi et al PCT Int. Appl. 2007031829, 22 Mar. 2007), DIEA (50 μl, 0.29 mmol) and cesium fluoride (17 mg, 0.11 mmol) were suspended in tert-butanol (2 ml) and the mixture was heated at 120° C. in a sealed tube for 18 h. The solvent was evaporated under reduced pressure and the reaction mixture was diluted with ethyl acetate and washed with saturated ammonium chloride solution and brine. After evaporation of the solvent, the residue was purified by flash chromatography using SP1® Purification System (0% to 10%, dichloromethane-methanol) to obtain 6 mg (5% yield) of the title compound.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.06 mmol, 15 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | 4-chloro-N-(3-methoxyphenyl)pyrimidine-5-carboxamide | 0.05 mmol, 14 mg | ClC1=NC=NC=C1C(=O)NC1=CC(=CC=C1)OC | C12H10ClN3O2
reactant | DIEA | 0.29 mmol, 50 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | cesium fluoride | 0.11 mmol, 17 mg | [F-].[Cs+]
solvent | tert-butanol | 2 ml | C(C)(C)(C)O | C4H10O
product | (S)—N-(3-Methoxyphenyl)-4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrol o[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide | 6 mg, 5% yield | COC=1C=C(C=CC1)NC(=O)C=1C(=NC=NC1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C27H25N7O3
